US09314468B2
Preparation of N1-((1H-indol-7-yl)methyl)-N1-(5,6,7,8-tetrahydroquinolin-8-yl)butane-1,4-diamine (B).
A solution of tert-butyl 4-(((1H-indol-7-yl)methyl)(5,6,7,8-tetrahydroquinolin-8-yl)amino)butylcarbamate, 6, (0.27 g, 0.60 mmol) in methanol (5 mL) was treated with thionyl chloride (1 mL) at room temperature. The resulting mixture was stirred for 30 min. The reaction mixture was then concentrated and dried under reduced pressure to afford 0.26 g (87% yield) of the desired product, B: 1H NMR (400 MHz, d6-DMSO) δ 11.97 (bs, 1H), 8.44 (d, J=4.8 Hz, 1H), 7.59 (d, J=7.2 Hz, 1H), 7.53 (d, J=7.2 Hz, 1H), 7.48-7.40 (m, 1H), 7.35-7.20 (m, 2H), 6.98 (t, J=6.8 Hz, 1H), 6.44 (bs, 1H), 4.90-4.78 (m, 2H), 3.60-3.53 (m, 2H), 3.10-3.00 (m, 2H), 2.80-2.60 (m, 4H), 2.50-2.39 (m, 1H), 2.30-1.40 (m, 7H); ESI+ MS: m/z (rel intensity) 349.2 (100, [M+H]+).

reactant | tert-butyl 4-(((1H-indol-7-yl)methyl)(5,6,7,8-tetrahydroquinolin-8-yl)amino)butylcarbamate | N1C=CC2=CC=CC(=C12)CN(CCCCNC(OC(C)(C)C)=O)C1CCCC=2C=CC=NC12 | C27H36N4O2
reactant | thionyl chloride | 1 mL | S(=O)(Cl)Cl | Cl2OS
solvent | methanol | 5 mL | CO | CH4O
product | N1-((1H-indol-7-yl)methyl)-N1-(5,6,7,8-tetrahydroquinolin-8-yl)butane-1,4-diamine | 0.26 g, 87% yield | N1C=CC2=CC=CC(=C12)CN(CCCCN)C1CCCC=2C=CC=NC12 | C22H28N4
